US05078748
(A) Preparation of 4-((2-tetrahydropyrylmethyl)oxy)-5-trifluoromethyl-1,3-diaminobenzene
27 g of 4-chloro-5-trifluoromethyl-1,3-dinitrobenzene are initially introduced into 36 g of 2-hydroxymethyltetrahydropyran, and 8.8 g of 50 percent strength aqueous sodium hydroxide solution are added at 45° C. in the course of 30 minutes. The mixture is then subsequently stirred at 45° for one hour and 30 ml of water are added. The oil which has separated out is separated off, washed twice with 20 ml of water each time and dried. This gives 18.3 g (53% of the theoretical value) of yellow oil.

reactant | 4-chloro-5-trifluoromethyl-1,3-dinitrobenzene | 27 g | ClC1=C(C=C(C=C1C(F)(F)F)[N+](=O)[O-])[N+](=O)[O-] | C7H2ClF3N2O4
reactant | 2-hydroxymethyltetrahydropyran | 36 g | OCC1OCCCC1 | C6H12O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 4-((2-tetrahydropyrylmethyl)oxy)-5-trifluoromethyl-1,3-diaminobenzene | O1C(CCCC1)COC1=C(C=C(C=C1C(F)(F)F)N)N | C13H17F3N2O2
